US09340824B2
Methyl (6-(Benzyloxy)purin-9-yl)acetate.
6-Benzyloxypurine (4.18 g; 18.5 mmol) was added to a suspension of potassium carbonate (3.1 g; 22.4 mmol) in DMF (100 ml). After 15 min., bromoacetic acid methyl ester (1.93 ml; 20.4 mmol) was added. The reaction was monitored by TLC in butanokacetic acidiwater 4:1:1. Upon completion, the reaction mixture was partitioned between water (600 ml) and ethyl acetate (600 ml). The organic phase was dried over magnesium sulfate and evaporated to a volume of ˜10 ml and precipitated with pet. ether. The two products were separated by column chromatography using ethyl acetate as the solvent. The products were precipitated in pet. ether. Yield: 2.36 g (43%). Melting point: 111.5-115° C. UV λmax=250 nm (9-alkylated); λmax=260 nm (7-alkylated). 1H-NMR (DMSO-d6): 8.60 (1H, s); 8.43 (1H, s); 7.6-7.35 (5H, m); 5.69 (2H, s); 5.26 (2H, s); 3.75 (3H, s).

reactant | 6-Benzyloxypurine | 18.5 mmol, 4.18 g | C(C1=CC=CC=C1)OC1=C2NC=NC2=NC=N1 | C12H10N4O
reactant | potassium carbonate | 22.4 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 20.4 mmol, 1.93 ml | COC(CBr)=O | C3H5BrO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl (6-(Benzyloxy)purin-9-yl)acetate | C(C1=CC=CC=C1)OC1=C2N=CN(C2=NC=N1)CC(=O)OC | C15H14N4O3
